* Copyright (c) 1998-2022 Analog Devices, Inc.  All rights reserved.
*
.subckt MAX34406H 1 2 3 4 5 6 7 8 9
G28 4 N008 N005 4 1
R72 4 N008 1 Noiseless
C42 N008 4 1p
G3 4 N006 1 4 1k
R18 4 N006 1m Noiseless
C5 N006 4 1p
R20 N004 N006 1k Noiseless
B3 N006 N004 I=1m*({a}+{b}*Temp+ {c}*Temp**2+ {d}*Temp**3)
G4 N004 N005 CMR 4 -1m
R22 N005 N004 1k Noiseless
C4 CMR N001 {C1a_CMR}
G5 4 N001 1 4 {G1_CMR}
R23 N001 4 1 Noiseless
R24 CMR N001 {R1a_CMR} Noiseless
R25 CMR 4 {R2a_CMR} Noiseless
DIP 4 N008 DIP
DIN N008 4 DIN
DOP Vsatp 5 DO
DON 5 Vsatn DO
G17 4 Vsatp Satp 4 1k
R61 Vsatp 4 1m Noiseless
G23 4 Vsatn Satn 4 1k
R66 Vsatn 4 1m Noiseless
C17 Vsatp 4 1n
C18 Vsatn 4 1n
C8 Clamp 4 {Cfp1}
A1 Inn1 Inp1 4 4 4 4 Avo 4 OTA G=100u Iout=1m Vhigh=1k Vlow=-1k
R7 ACL 4 1Meg Noiseless
G1 4 ACL N009 4 1µ
C9 ACL 4 {Cfp2}
G2 4 Clamp Avo 4 {Avo2/1Meg}
C10 Avo 4 1f
G8 4 5 ACL 4 {1/Ro}
I1 N017 4 {Iq_on}
G9 4 Vs N017 4 1m
R2 Vs 4 1k Noiseless
A2 Vs 4 4 4 4 4 VsminGD 4 SCHMITT Vt={Vs_min-10m} Vh=9m Trise=5n
A3 Vs 4 4 4 4 VsmaxGD 4 4 SCHMITT Vt={Vs_max+10m} Vh=9m Trise=5n
A4 VsminGD VsmaxGD 4 VcmminGD VcmmaxGD 4 GD 4 AND Trise=5n
R1 N017 3 1µ Noiseless
G11 4 N011 2 4 1
R10 4 N011 1 Noiseless
C7 N011 4 1p
DIP1 4 N011 DIP
DIN1 N011 4 DIN
R_Ip Inp1 N008 100
R_Fp N002 Inp1 10k
R_In Inn1 N011 100
R_Fn Inn1 N012 10k
C13 5 Vsatp 1p
C15 5 Vsatn 1p
R_EGn ACL N012 {R_EG}
R_EGp 4 N002 {R_EG}
I2 4 Satn 60µ
R15 Satn 4 1k Noiseless
C16 Satn 4 1n
R16 Satp 4 1k Noiseless
C19 Satp 4 1n
B1 4 Satp I=1m*Min(6, V(1,4))
C2 7 4 1p Rpar=5Meg
A5 N024 4 4 4 4 4 ENA 4 SCHMITT Vt=0.5 Vh=0.2 Trise=10n
C20 ENA 4 1p Rpar=1G
B2 4 N024 I=1m*(V(7,4)/ V(3,4)) Rpar=1k Cpar=1p
C21 VsmaxGD 4 1p Rpar=1G
C22 GD 4 1p Rpar=1G
C23 4 VsminGD 1p Rpar=1G
C24 Vs 4 1n
DGP N018 Clamp DG
DGN Clamp N019 DG
G13 4 N018 GRpi 4 1k
G14 4 N019 GRni 4 1k
R3 N018 4 1m Noiseless
R4 N019 4 1m Noiseless
R9 GRpi 4 1k Noiseless
R17 GRni 4 1k Noiseless
C25 GRni 4 10p
C26 GRpi 4 10p
I3 4 GRni {-1m*GRV}
I4 4 GRpi {1m*GRV}
C27 Clamp N018 1f
C28 Clamp N019 1f
G15 4 OC_in 5 N015 1m
I5 N015 4 5µ
R19 N015 4 1k
C1 N015 4 1n
R26 OC_in 4 1k
C29 OC_in 4 1p
S1 N020 6 OC 4 DIG
I6 4 N020 3
R28 N020 4 100m
C31 N020 4 1p
C30 OC 4 1p Rpar=1G
S2 N025 8 SHTDN 4 DIG
I7 4 N025 3
R29 N025 4 100m
C32 N025 4 1p
A7 3 4 CLK 4 N026 SHTDN 4 4 DFLOP Trise=10n
C3 SHTDN 4 1p Rpar=1G
A8 ENA 4 4 4 4 N026 4 4 BUF Trise=10n
A9 N027 4 ENA 4 4 DLYSW 4 4 AND Trise=10n
A6 OC_in 4 4 4 4 OC 4 4 SCHMITT Vt=1 Vh=20m Td=3u Trise=10n
A10 OC 4 4 4 4 N027 4 4 BUF Trise=10n
C33 4 N027 1p Rpar=1G
I8 4 9 5µ
D1 3 9 DO
S3 4 9 DLYSW 4 DLY
B4 4 CLK I=1m*(V(9,4)/ V(3,4)) Rpar=1k Cpar=1p
C6 DLYSW 4 1p Rpar=1G
C34 N026 4 1p Rpar=1G
R31 1 4 1T Noiseless
R32 2 4 1T Noiseless
S4 4 Avo GD 4 ENA
S5 4 Clamp GD 4 ENA
S6 4 5 GD 4 ENZ
A11 1 4 4 4 4 4 VcmminGD 4 SCHMITT Vt={Vcm_min-10m} Vh=9m Trise=5n
A12 1 4 4 4 4 VcmmaxGD 4 4 SCHMITT Vt={Vcm_max+10m} Vh=9m Trise=5n
C35 VcmminGD 4 1p Rpar=1G
C36 VcmmaxGD 4 1p Rpar=1G
R6 N009 4 1Meg Noiseless
G6 4 N009 Clamp 4 1µ
C11 N009 4 {Cfp2}
.param a=5.26u b=-216n
.param c=-170p d=9.5p
.param Vcm_min=2 Vcm_max=28
.param Vs_min=2.7 Vs_max=5.5
.param Iscp=10m Iscn={Iscp}
.param Iq_on=200u
.param gain_CMR = {pow(10, (-Rej_dc_CMR/20))}
.param C1a_CMR = {1 / (2 * pi * R1a_CMR * fz1_CMR)}
.param R2a_CMR = {R1a_CMR/ ((2 * pi * fp1_CMR * C1a_CMR
+* R1a_CMR) - 1)}
.param actual1_CMR = {R2a_CMR / (R1a_CMR + R2a_CMR)}
.param G1_CMR = {gain_CMR/actual1_CMR}
.param Rej_dc_CMR=81.386
.param R1a_CMR=1Meg
.param fz1_CMR=3.2
.param fp1_CMR=100Meg
.model DIP D(Vfwd=100 Vrev={Vcm_max} Revepsilon=0.1 Noiseless)
.model DIN D(Vfwd=100 Vrev={-Vcm_min} Revepsilon=0.1 Noiseless)
.model DG D(Vfwd=8k Vrev=0 Revepsilon=0.5 Ron=1m Noiseless)
.model DO D(Vfwd=1k Vrev=0 Revepsilon=0.1 Ron=1m Noiseless)
.model DIG SW(Vt=0.5 Vh=-0.5 Ron=1m Roff=5Meg Noiseless)
.model DLY SW(Vt=0.5 Vh=-0.5 Ron=1m Roff=1G Noiseless)
.model ENA SW(Ron=1Meg Roff=1u Vt=500m Vh=-100m Noiseless)
.model ENZ SW(Ron={Ro} Roff=1u Vt=500m Vh=-100m Noiseless)
.param Avo=120
.param fp1=148.5 fp2=42k
.param Avo2_dB={Avo-40+1}
.param Avo2 = {pwr(10, (Avo2_dB)/20)}
.param Cfp1={1 / (2 * pi * fp1 * 1Meg)}
.param Cfp2={1 / (2 * pi * fp2 * 1Meg)}
.param Ro=10k
.param R_EG=333
.param GRV=4k
.ends MAX34406H
