* Copyright (c) 1998-2021 Analog Devices, Inc.  All rights reserved.
*
.subckt level1 1 2 3 4 5
A1 2 1 0 0 0 0 5 0 OTA G={Avol/Rout} ref={Vos} linear Cout={Cout} en={en} enk={enk} in={in} ink={ink} incm={incm} incmk={incmk} Vhigh=1e308 Vlow=-1e308 Rout={Rout}
R5 2 3 {2*Rin} noiseless
R6 1 4 {2*Rin} noiseless
R1 3 1 {2*Rin} noiseless
R2 2 4 {2*Rin} noiseless
.param Rout=.1
.param Cout={Avol/GBW/2/pi/Rout}
.param Avol=1Meg GBW=10Meg Slew=10Meg ilimit=25m rail=0 Vos=0
.param en=0 enk=0 in=0 ink=0 incm=0 incmk=0 Rin=1G
.ends level1
*